US07531585B2
Synthesis of magnesium phenylphosphonate
1.58 g (10.0 mmol) of phenylphosphonic acid (manufactured by Nissan Chemical industries, Ltd.), 0.583 g (10.0 mmol) of magnesium hydroxide and 41 g of water were mixed, stirred at 80° C. for 3 hours, then water was distilled off under reduced pressure and dried at 200° C. to obtain 1.78 g (yield 99%) of the aimed product as white crystal. Decomposition temperature: 524° C.

reactant | phenylphosphonic acid | 10.0 mmol, 1.58 g | C1(=CC=CC=C1)P(O)(O)=O | C6H7O3P
reactant | magnesium hydroxide | 10.0 mmol, 0.583 g | [OH-].[Mg+2].[OH-]
solvent | water | 41 g | O | H2O
product | magnesium phenylphosphonate | 1.78 g, yield 99% | C1(=CC=CC=C1)P([O-])([O-])=O.[Mg+2] | InChI=1S/C6H7O3P.Mg/c7-10(8,9)6-4-2-1-3-5-6;/h1-5H,(H2,7,8,9);/q;+2/p-2
